US07713993B2
Synthesis of 3-[3-chloro-1-(4-fluorophenyl)propyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole
A solution of 3-(4-fluorophenyl)-3-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}propan-1-ol (83 mg) in phosphorus oxychloride (1 mL) was stirred at 120° C. for one hour. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 86 mg of the title compound. The property value of the compound as follows.

reactant | 3-(4-fluorophenyl)-3-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}propan-1-ol | 83 mg | FC1=CC=C(C=C1)C(CCO)C1=NN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C24H24FN5O2
reactant | phosphorus oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[3-chloro-1-(4-fluorophenyl)propyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole | 86 mg | ClCCC(C1=CC=C(C=C1)F)C1=NN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C24H23ClFN5O
